US06066426
Carbazole (30.1 g, 0.18 mol), 5-bromo-1-pentene (25.5 g, 0.17 mol), and triethylammonium chloride (6 g, 0.026 mol) were combined in tetrahydrofuran (200 mL), and a solution of sodium hydroxide (14 g, 0.35 mol) in water (60 mL) was added. The mixture was heated at reflux with stirring for 6 hours, then cooled to room temperature and left overnight. The aqueous layer was separated and the organic phase was concentrated to dryness. The crude product was redissolved in diethyl ether (1000 mL) and washed with water (2×50 mL), dried (Na2SO4,) and then concentrated in vacuo. Recrystallization from methanol afforded N-pentenylcarbazole as cream-colored needles (27.6 g, 65%), m.p.=47° C.

reactant | Carbazole | 0.18 mol, 30.1 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | 5-bromo-1-pentene | 0.17 mol, 25.5 g | BrCCCC=C | C5H9Br
reactant | triethylammonium chloride | 0.026 mol, 6 g | [Cl-].C(C)[NH+](CC)CC
reactant | sodium hydroxide | 0.35 mol, 14 g | [OH-].[Na+]
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | N-pentenylcarbazole | 27.6 g, 65% | C(=CCCC)N1C2=CC=CC=C2C=2C=CC=CC12 | C17H17N
